US08895545B2
a) (E)-3-(3,3-Dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide hydrochloride
A solution of (E)-3-(3,3-dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide (0.11 g, 0.27 mmol) in CH2Cl2 (10 mL) was treated with anhydrous HCl (0.27 mL of a 1.0 M solution in Et2O, 0.27 mmol). After stirring for 15 min, the mixture was diluted with Et2O (50 mL) and allowed to stir for 3 h. The solid was isolated by filtration, washed with Et2O, and dried under vacuum at 50° C. overnight to give the title compound (0.10 g, 86%) as a yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ13.16-13.13 (m, 1H), 9.67-9.65 (m, 1H), 8.96-8.92 (m, 1H), 8.69 (s, 1H), 8.64-8.61 (m, 1H), 7.58-7.24 (m, 6H), 5.00-4.80 (m, 2H), 4.54 (br s, 2H), 3.19-2.92 (m, 3H), 2.27 (s, 3H), 1.36 (br s, 6H); MS (ESI) m/e 403 (M+H)+.

reactant | (E)-3-(3,3-dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide | 0.27 mmol, 0.11 g | CC1(N=CC2=C(NC1)N=CC(=C2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C)C | C24H26N4O2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | (E)-3-(3,3-Dimethyl-2,3-dihydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide hydrochloride | 0.10 g, 86% | Cl.CC1(N=CC2=C(NC1)N=CC(=C2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C)C | InChI=1S/C24H26N4O2.ClH/c1-16-19-7-5-6-8-20(19)30-21(16)14-28(4)22(29)10-9-17-11-18-13-27-24(2,3)15-26-23(18)25-12-17;/h5-13H,14-15H2,1-4H3,(H,25,26);1H/b10-9+;
